US07060827B2
In like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine and 2-ethoxycarbonyl-5-aminoindole were reacted to yield N2-(2-ethoxycarbonylindol-5-yl)-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 7.84 (d, 1H, J=5.4 Hz), 7.76 (d, 1H, J=3.6 Hz), 7.50 (d, 1H, J=9 Hz), 7.23–7.15 (m, 3H), 7.03 (bd, 1H, J=8.7 Hz), 6.78 (d, 1H, J=8.7 Hz), 4.38 (q, 2H, J=7.2 Hz), 4.22 (s, 4H), 1.41 (t, 3H, J=6.9 Hz); LCMS: ret. time: 23.58 min; purity: 100%; MS (m/e): 451 (MH+).

reactant | 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C12H9ClFN3O2
reactant | 2-ethoxycarbonyl-5-aminoindole | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)N | C11H12N2O2
product | N2-(2-ethoxycarbonylindol-5-yl)-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)NC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C23H20FN5O4
